US06235750B1
6-[(N-(3,4-Methylenedioxybenzyl))-4-(piperidin-4-yl)-phenyl]-pyridin-2-ylamine
Prepared from Example 13, using 3,4-methylenedioxybenzyl bromide to alkylate 6-[4-(piperidin-4-yl)-phenyl]-pyridin-2-ylamine, in 82%, mp 150-165° C. as the hydrochloride salt.

reactant | 3,4-methylenedioxybenzyl bromide | C1OC=2C=C(CBr)C=CC2O1 | C8H7BrO2
reactant | 6-[4-(piperidin-4-yl)-phenyl]-pyridin-2-ylamine | N1CCC(CC1)C1=CC=C(C=C1)C1=CC=CC(=N1)N | C16H19N3
product | 6-[(N-(3,4-Methylenedioxybenzyl))-4-(piperidin-4-yl)-phenyl]-pyridin-2-ylamine | C1OC=2C=C(CN3CCC(CC3)C3=CC=C(C=C3)C3=CC=CC(=N3)N)C=CC2O1 | C24H25N3O2
